US08748440B2
Preparation of 2-(2-Chloropropionylamino)Benzoic Acid
To the 2-(2-chloro-propionylamino)-benzoic acid methyl ester (7.75 g, 32.1 mmol) stirring in THF (40 mL) was added 1M LiOH/H2O (40 mL). The reaction was allowed to stir at 50° C. for 3 h. After this period the reaction was concentrated under vacuum to afford a crude residue that was acidified with 1N HCl. The resulting suspension was then diluted with EtOAc and washed with water (3×50 mL). The organic layer was then washed with brine (25 mL), dried over MgSO4, and concentrated under vacuum to afford crude acid. The crude material was purified by flash chromatography (silica gel, 80% EtOAc/Hex) to afford the desired product as an off white solid (7.1 g, 97% yield). 1H-NMR (CDCl3): δ 8.6 (d, 1H), 8.12 (d, 1H), 7.61 (t, 1H), 7.57 (t, 1H), 4.89 (br, 1H), 4.65 (t, 1H), 1.78 (d, 3H).

reactant | 2-(2-chloro-propionylamino)-benzoic acid methyl ester | 32.1 mmol, 7.75 g | COC(C1=C(C=CC=C1)NC(C(C)Cl)=O)=O | C11H12ClNO3
reactant | LiOH H2O | 1M, 40 mL | [Li+].[OH-].O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2-Chloropropionylamino)Benzoic Acid | ClC(C(=O)NC1=C(C(=O)O)C=CC=C1)C | C10H10ClNO3
